US04173566
A: 1-Benzhydryl-2-[α-(N-trifluoroacetylimino)benzyl]azetidine
Dissolve 100 mg of 1-benzhydryl-2-benzimidoylazetidine in 3.5 ml of benzene, add one equivalent of triethylamine and cool the solution to approximately 5° C. Add one equivalent of trifluoroacetic anhydride and maintain the reaction solution at 5° C. for 30 minutes. Treat the solution with ether and sufficient aqueous sodium bicarbonate to make the resultant mixture weakly alkaline. Separate the layers and wash the organic phase successively with water and saturated aqueous sodium chloride solution. Dry over anhydrous sodium sulfate, and remove solvent in vacuo. The resultant oil is used directly without further purification in the preparation of 1-benzhydryl-2-[α-methyl-α-(N-trifluoroacetamido)benzyl]azetidine.

reactant | 1-benzhydryl-2-benzimidoylazetidine | 100 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(CC1)C(C1=CC=CC=C1)=N | C23H22N2
reactant | triethylamine | one equivalent | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | one equivalent | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | benzene | 3.5 ml | C1=CC=CC=C1 | C6H6
solvent | ether | CCOCC | C4H10O
product | 1-Benzhydryl-2-[α-(N-trifluoroacetylimino)benzyl]azetidine | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(CC1)C(C1=CC=CC=C1)=NC(C(F)(F)F)=O | C25H21F3N2O
